US04102888
Step E. Preparation of 7-{2-[4-(4-Fluorophenoxy)-3-hydroxybutyl]-1,1,4-trioxo-3-thiazolidinyl}heptanoic Acid
A solution of benzyl 7-{2-[3-benzyloxy-4-(4-fluorophenoxy)butyl]-1,1,4-trioxo-3-thiazolidinyl}heptanoate (1.1 g., 1.76 millimole) in absolute ethanol-ethyl acetate (100:2; v:v; 102 ml.) is magnetically stirred and hydrogenated at 25° C. and atmospheric pressure in the presence of 10% palladium/charcoal until hydrogen consumption ceases (~139 ml. of hydrogen is consumed). After removing the catalyst by filtration, the filtrate is concentrated in vacuo leaving an oily residue which is applied to a silica gel column (20 g.) with chloroform. Impurities are eluted with chloroform-acetic acid (25:1; v:v; 200 ml.); continued elution with the same eluant (375 ml.) affords the title compound as a tlc homogeneous, viscous oil (0.59 g., 75%); pmr (CDCl3) δ2.31 (2H, t), 2.73-3.37 (H, m), 3.60-4.30 (6H, m, containing singlets at 3.80 and 3.90), 4.61 (H, t), 6.67-7.60 (6H, m, containing a broad singlet at 7.30).

reactant | benzyl 7-{2-[3-benzyloxy-4-(4-fluorophenoxy)butyl]-1,1,4-trioxo-3-thiazolidinyl}heptanoate | 1.76 millimole, 1.1 g | C(C1=CC=CC=C1)OC(CCC1S(CC(N1CCCCCCC(=O)OCC1=CC=CC=C1)=O)(=O)=O)COC1=CC=C(C=C1)F | C34H40FNO7S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol ethyl acetate | 102 ml | C(C)O.C(C)(=O)OCC
product | 7-{2-[4-(4-Fluorophenoxy)-3-hydroxybutyl]-1,1,4-trioxo-3-thiazolidinyl}heptanoic Acid | FC1=CC=C(OCC(CCC2S(CC(N2CCCCCCC(=O)O)=O)(=O)=O)O)C=C1 | C20H28FNO7S
